US06995176B2
Preparation of 3-(Phenylsulfonyl)-1-(piperidin-3-yl)-1H-indole Hydrochloride
A solution of 1-(1-benzylpiperidin-3-yl)-3-(phenylsulfonyl)-1H-indole (431 mg, 1.00 mmol) in dry 1,2-dichloroethane is treated with 1-chloroethyl chloroformate (0.27 mL, 2.50 mmol), heated at reflux temperature for 2.5 h, cooled and concentrated in vacuo (reconcentrated twice from CH2Cl2). The resulting residue is heated at reflux temperature in methanol for 3 h, cooled and concentrated in vacuo to give an oil. The oil is reconcentrated from ethanol and then from ether to give a tan solid. The solid is triturated with ethanol and filtered. The filtercake is dried under vacuum to afford the title product as an off-white solid, 322 mg (85% yield), mp 254–256° C., identified by HNMR and mass spectral analyses.

reactant | 1-(1-benzylpiperidin-3-yl)-3-(phenylsulfonyl)-1H-indole | 1.00 mmol, 431 mg | C(C1=CC=CC=C1)N1CC(CCC1)N1C=C(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C26H26N2O2S
reactant | 1-chloroethyl chloroformate | 2.50 mmol, 0.27 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | ethanol | C(C)O | C2H6O
reactant | ether | CCOCC | C4H10O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-(Phenylsulfonyl)-1-(piperidin-3-yl)-1H-indole Hydrochloride | 85% yield | Cl.C1(=CC=CC=C1)S(=O)(=O)C1=CN(C2=CC=CC=C12)C1CNCCC1 | InChI=1S/C19H20N2O2S.ClH/c22-24(23,16-8-2-1-3-9-16)19-14-21(15-7-6-12-20-13-15)18-11-5-4-10-17(18)19;/h1-5,8-11,14-15,20H,6-7,12-13H2;1H
